US07220744B2
(a) rac-5-Methanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester
A mixture of 21.7 mmol 2-hydroxy-5-methanesulfonyl-benzoic acid methyl ester (WO 2002074774), 32.5 mmol rac-trifluoro-methanesulfonic acid 2,2,2-trifluoro-1-methyl-ethyl ester [212556-43-9] and 43.4 mmol potassium carbonate in 87 ml DMF was stirred at 80° C. for 48 hours. After cooling to room temperature, the mixture was concentrated in vacuo, resuspended in water and stirred for 1 hour. Filtration yielded the title compound.

reactant | 2-hydroxy-5-methanesulfonyl-benzoic acid methyl ester | 21.7 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C)O)=O | C9H10O5S
reactant | rac-trifluoro-methanesulfonic acid 2,2,2-trifluoro-1-methyl-ethyl ester | 32.5 mmol | FC(C(C)OS(=O)(=O)C(F)(F)F)(F)F | C4H4F6O3S
reactant | potassium carbonate | 43.4 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 87 ml | CN(C)C=O | C3H7NO
product | rac-5-Methanesulfonyl-2-(2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C(F)(F)F)C)=O | C12H13F3O5S
